Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right renal tumor.

 
Major Surgical or Invasive Procedure:
___: Open partial nephrectomy from the transplanted kidney
___: Exploratory laparotomy with lysis of adhesions
 
History of Present Illness:
___ y/o male who developed renal failure likely secondary to 
hypertension and underwent a cadaveric kidney transplant at 
___ in ___.  He has done well since his 
transplant, but on routine screening he was found to
have a mass in the upper pole of his transplant kidney in the 
right iliac fossa as well as a left adrenal mass. He has no 
complaint of pain and has been feeling fine. He has not had 
chest pain, shortness of breath, hematuria or flank pain. He has 
been seen by Dr ___ in urology and is to undergo surgery with 
Drs ___ for mass excision from the transplant 
kidney.

 
Past Medical History:
HTN
s/p cadaveric renal transplant ___ at ___
s/p cataract surgery
 
Social History:
___
Family History:
Mother with HTN, father with DM
 
Physical Exam:
Post Op
VS: 97.8, 73, 134/51, 17, 98% 3LNC
Gen: Sleepy, NAD Pain ___ on pCA
Card: RRR
Lungs: CTA bilaterally
Abdomen: distended, soft, appropriately tender

 
Pertinent Results:
On Admission: ___
WBC-17.5*# RBC-3.57* Hgb-10.5* Hct-30.8* MCV-86 MCH-29.3 
MCHC-34.0 RDW-13.5 Plt ___
Glucose-184* UreaN-18 Creat-1.7* Na-134 K-4.8 Cl-107 HCO3-20* 
AnGap-12
Calcium-8.2* Phos-3.3 Mg-2.3
On Discharge: ___
WBC-10.0 RBC-3.13* Hgb-9.1* Hct-28.4* MCV-91 MCH-29.0 MCHC-31.9 
RDW-15.8* Plt ___ PTT-31.2 ___
Glucose-104 UreaN-30* Creat-1.5* Na-139 K-4.8 Cl-110* HCO3-23 
AnGap-11
Albumin-3.1* Calcium-8.9 Phos-2.7 Mg-1.8 
tacroFK-6.8
Iron Studies ___:
Iron-24* calTIBC-237* Ferritn-676* TRF-182*

 
Brief Hospital Course:
___ y/o male admitted following partial transplant nephrectomy 
for mass in transplant kidney found on routine screening. Due to 
the complex nature of this case, patient went to the OR with Dr 
___ urology and Dr ___ with Transplant. It was stated 
that due to the complex nature of this case, two attendings were 
present for the case involving Open partial nephrectomy from the 
transplanted kidney.
In summary, the transplanted kidney was completely encased in a 
large amount of scar
tissue making dissection difficult. The tumor was excised, and 
JP drain was placed. Please see the surgical notes of both Dr 
___ Dr ___ details.
In the post op period, his pain was controlled using a PCA. 
Urine output and residual renal function were excellent.
Pathology of the tumor revealed  "Oncocytoma, margin free of 
tumor"
On about POD 6, the patient was noted to be increasingly 
distended. Bowel function was very sluggish post op, in addition 
to a notation on labs of increased WBC as well as development of 
fever. A CT of the abdomen was obtained showing "Moderate grade 
partial small bowel obstruction with transition point noted  
within the right lower quadrant, slightly anterior to the 
transplant kidney."
He was taken back to the OR on ___ again with Dr___ and 
___ for Exploratory laparotomy with lysis of adhesions and 
freeing up obstruction. Per the operative report lysis of 
adhesions of the bowel was done and the finding that the 
terminal ileum had been plastered down to the area of the 
kidney. This was felt to be the transition point seen on CT and 
this was the cause of the obstruction. No bowel perforation was 
found or other evidence of intra-abdominal pathology seen. There 
was a significant amount of fluid encountered when the patient 
was opened. This fluid was sent for culture and lab tests. 
Creatinine was low, so it was not felt to be a urine leak. 
Enterococcus (Vanco sensitive) did grow from the fluid as well 
as from blood cultures obtained the same day. Urine cultures 
from the day previous were also positive for Enterococcus and he 
was started on Vancomycin and Flagyl which were given x 7 days. 
An ID consult was obtained.
He was switched to Ampicillin on ___ and this was continued 
for 9 days. In addition he received Levaquin for a total of 11 
days.
The patient was started on TPN via a PICC line, this was 
continued for about two weeks. PO diet was started back slowly, 
he will be seen as an outpatient by nutrition. PICC line was 
d/c'd prior to his discharge.
The patient started with increased stooling, and C diff A&B was 
sent. The cultures were negative x 5, however he was started on 
PO Vanco as his WBC remained elevated, and no other source was 
identified. A CMV viral load was sent which was positive at 909 
copies, he was started on a 3 week course of Valcyte. He also 
has a positive HSV screen from a lesion on his lip. The Valcyte 
will cover both. In addition, he had a stool for CMV sent, which 
was negative up to this time, but had not yet been finalized.
Approximately 2 weeks into the hospitalization, the patient 
developed new onset AFib.  He was chemically converted on 
Amiodarone and was started on a heparin drip. Due to the 
interaction between amiodarone, Prograf and Coumadin, the 
patient was started on half dose Coumadin on ___. Over the next 
2 days, his Hct was noted to fall from 27% to 17%. The 
anticoagulation was stopped and he received 3 units of pRBC's. 
Of note, his stool at this time was noted to be dark and guaiac 
positive. The heparin drip and coumadin were placed on hold. The 
amiodarone was discontinued and it was decided to rate control 
the patient which was well achieved with beta blockade. The 
coumadin was restarted at an even lower dose, as well, the 
heparin remained off and he was started on Lovenox injection, 
which he will be continuing at home short term.
Dr ___ a cystoscopy on ___ due to concern for 
fluid from the JP drain from initial surgery was found to have a 
creatinine of 22.9. He underwent cystoscopy, a 4.8 ___ x 10 
cm double-J stent was placed with the proximal coil in the 
collecting system and distal coil in the bladder. A Foley drain 
was left in place which should be left in place for two weeks. 
Patient to be seen in ___ clinic with Dr ___. A JP drain 
is also in place, removal will be following Foley removal by 
several days and will be determined by urology.
Patient was given a glucometer and will check blood sugars at 
home. Given signs and symptoms of low blood sugar and started on 
Glipizide per ___ recommendations.
Scripts were given to the patient for new medications which will 
be filled at patients home ___ 
at their free pharmacy as this has been his usual source for his 
medications. 
Dr ___ (pager ___, fax ___, his PCP 
___ be monitoring ___ and was contacted on ___ to verify 
this. ___ will draw and fax results of first two INRs and then 
they will be arranged as an outpatient.
 

 
Medications on Admission:
lopressor 100", cozaar, hctz, spironolactone, hydralazine, 
lipitor 10, asa 81, colace, hytrin  

 
Discharge Medications:
1. Tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
2. Prednisone 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.
Disp:*15 Tablet(s)* Refills:*0*
4. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
5. Spironolactone 50 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
7. Lopressor 100 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. Mycophenolate Mofetil 250 mg Capsule Sig: One (1) Capsule PO 
twice a day.  
9. Hydralazine 100 mg Tablet Sig: One (1) Tablet PO at bedtime.  

10. Hytrin 10 mg Capsule Sig: One (1) Capsule PO at bedtime.  
11. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO twice a day.  
12. Losartan 25 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Valganciclovir 450 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 17 days.
Disp:*17 Tablet(s)* Refills:*0*
14. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
15. Glipizide 2.5 mg Tab,Sust Rel Osmotic Push 24hr Sig: One (1) 
Tab,Sust Rel Osmotic Push 24hr PO DAILY (Daily).
Disp:*30 Tab,Sust Rel Osmotic Push 24hr(s)* Refills:*2*
16. Lovenox 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous once 
a day for 5 days.
Disp:*5 syringes* Refills:*0*
17. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*15 Tablet(s)* Refills:*0*
18. One Touch II Test     Strip Sig: One (1) strip In ___ once 
a day.
Disp:*1 vial* Refills:*2*
19. Lancets     Misc Sig: One (1)  Miscellaneous once a day.
Disp:*1 vial* Refills:*2*
20. Lipitor 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right renal tumor - oncocytoma
Afib
CMV
anemia
urinary leak
ileus, resolved

 
Discharge Condition:
stable

 
Discharge Instructions:
Please call Dr. ___ at ___ if you have 
temperature>101.5, chills, nausea or vomiting, worsening 
abdominal pain, vomiting blood or bloody/black bowel movements, 
redness/pus or  drainage around incision, or drains, cloudy foul 
smelling urine, or drain output stops or increases 
Empty the drain (JP) and foley (urine bag) when half full and 
record volume of outputs. Bring this record of drain/urine 
outputs to next appointment with Dr. ___ and INR will be drawn by the visiting nurse on ___ 
and ___. Results to be faxed to Dr ___ will be 
managing your anticoagulation
Check your blood sugar by fingerstick at least once daily. If 
you feel sweaty, clammy, confused or anxious, these can be signs 
of low blood sugar. Have some juice and then check your blood 
sugar. A low reading is less than 70
No Heavy lifting

 
Followup Instructions:
___